US07612114B2
By referring to the synthetic method of J. Org. Chem., 1997, 62, 199, to a solution of lithium acetate (280 mg) in water (3 ml) was added acetonitrile (90 ml), the solution was stirred at room temperature, then 4-methoxycinnamic acid (7.5 g), N-iodosuccinimide (10 g) were sequentially added thereto, the solution was stirred for 2 hours at room temperature, and then neutralized with a saturated aqueous solution of sodium bicarbonate. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide 1-(2-iodovinyl)-4-methoxybenzene (8.0 g). By referring to the synthetic method of J. Am. Chem. Soc., 1996, 118, 2748, to a solution of 1-(2-iodovinyl)-4-methoxybenzene (7.1 g) and tributyl(4-methoxy-2-nitrophenyl)tin (10 g) in 1-methyl-2-pyrrolidone (100 ml) was added copper(I) thiophene-2-carboxylate (6.6 g) on an ice bath under a nitrogen atmosphere, and the solution was stirred for 25 minutes at room temperature. Tetrahydrofuran was added thereto, the solution was stirred, then filtered through alumina, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (4.7 g).

reactant | lithium acetate | 280 mg | C(C)(=O)[O-].[Li+]
reactant | 4-methoxycinnamic acid | 7.5 g | COC1=CC=C(C=CC(=O)O)C=C1 | C10H10O3
reactant | N-iodosuccinimide | 10 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 3 ml | O | H2O
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 1-(2-iodovinyl)-4-methoxybenzene | 8.0 g | IC=CC1=CC=C(C=C1)OC | C9H9IO
